US04792563
Stage 4: 2,2-Dimethyl-3-(3-bromo-4-fluorobenzyloxy)propan-1-ol
This compound was prepared from 3-bromo-4-fluorobenzyl bromide and 2,2-dimethylpropan-1,3-diol using the method of Example 1.

reactant | 3-bromo-4-fluorobenzyl bromide | BrC=1C=C(CBr)C=CC1F | C7H5Br2F
reactant | 2,2-dimethylpropan-1,3-diol | CC(CO)(CO)C | C5H12O2
product | 2,2-Dimethyl-3-(3-bromo-4-fluorobenzyloxy)propan-1-ol | CC(CO)(COCC1=CC(=C(C=C1)F)Br)C | C12H16BrFO2
